US08536351B2
Dimethyl (2-oxopropyl)phosphonate (32.06 g, 193 mmol) is added to a chilled (ice-bath) solution of potassium hydroxide (10.83 g, 193 mmol) in water (30 ml) and ethanol (170 ml) and the mixture is stirred. Tetrahydrofuran-3-carboxaldehyde (50% wt. % solution in water, 25 ml, 138 mmol) is added dropwise and the reaction mixture is stirred at 5° C. for 10 minutes. The cooling bath is removed and the mixture is stirred at room temperature for 7 hours. Most of the solvent is removed in vacuo, water (100 ml) and diethyl ether (200 ml) are added, the mixture is poured into a separating funnel and the organic phase collected. The aqueous phase is extracted three times with diethyl ether, and the organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and the filtrate is evaporated in vacuo. The residue is further purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane to give 4-(tetrahydrofuran-3-yl)-3-buten-2-one as a pale yellow liquid.

reactant | Dimethyl (2-oxopropyl)phosphonate | 193 mmol, 32.06 g | O=C(CP(OC)(OC)=O)C | C5H11O4P
reactant | potassium hydroxide | 193 mmol, 10.83 g | [OH-].[K+]
reactant | Tetrahydrofuran-3-carboxaldehyde | 138 mmol, 25 ml | O1CC(CC1)C=O | C5H8O2
solvent | water | 30 ml | O | H2O
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 4-(tetrahydrofuran-3-yl)-3-buten-2-one | O1CC(CC1)C=CC(C)=O | C8H12O2
